2145-02-03 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - spiked fever, hypotensive to high 70's, tachy to 120's.  Given 2
   liters NS, vancomycin 1 g given dirty line placement.
   - Blood cx x 2, urine culture sent
   - UA with pyruria (seen previously, likely related to candiduria) ->
   foley changed
   - Cordis removed, catheter tip sent for culture
   - Hct drop from 29 to 24 -> transfused  1 unit PRBC's
   - NPO after MN for trach revision
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-2-2**] 11:50 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-2-2**] 10:45 AM
   Midazolam (Versed) - [**2145-2-2**] 10:37 PM
   Fentanyl - [**2145-2-3**] 03:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-3**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.7
C (98.1
   HR: 101 (91 - 126) bpm
   BP: 121/64(86) {93/50(66) - 166/89(113)} mmHg
   RR: 18 (12 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  9,135 mL
                                                                    691 mL
   PO:
           TF:
   IVF:
                                                                  8,265 mL
                                                                    341 mL
   Blood products:
                                                                    750 mL
                                                                    350 mL
   Total out:
                                                                  2,560 mL
                                                                    510 mL
   Urine:
                                                                  1,560 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,575 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 399 (359 - 399) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 15 cmH2O
   Plateau: 6 cmH2O
   SpO2: 99%
   ABG: 7.41/42/63/25/1
   Ve: 7 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General: sedated and no acute distress
   HEENT: Right eye with conjunctival injection/erythema, both eyes with
   substantial ointment, mucus membranes dry, otherwise clear
   Neck: supple
   Lungs: Coarse breath sounds b/l
   CV: Tachycardia, normal S1 + S2
   Abdomen: Soft, non-distended
   Ext: Warm, well perfused
   Neuro: limited by sedation
   Labs / Radiology
   134 K/uL
   9.4 g/dL
   112 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.4 mEq/L
   6 mg/dL
   112 mEq/L
   139 mEq/L
   26.1 %
   23.4 K/uL
        [image002.jpg]
                             [**2145-1-28**]  09:56 PM
                             [**2145-1-29**]  03:23 AM
                             [**2145-2-2**]  08:24 AM
                             [**2145-2-2**]  08:43 AM
                             [**2145-2-2**]  01:24 PM
                             [**2145-2-2**]  01:57 PM
                             [**2145-2-2**]  06:09 PM
                             [**2145-2-3**]  12:17 AM
                             [**2145-2-3**]  12:55 AM
                             [**2145-2-3**]  05:36 AM
   WBC
   6.6
   16.1
   23.4
   Hct
   34.0
   31.5
   29.4
   28.9
   24.3
   24.0
   26.1
   Plt
   140
   149
   134
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   30
   28
   Glucose
   108
   95
   149
   112
   Other labs: PT / PTT / INR:14.5/31.7/1.3, CK / CKMB /
   Troponin-T:128/15/0.14, ALT / AST:19/66, Alk Phos / T Bili:111/2.1,
   Amylase / Lipase:113/124, Differential-Neuts:87.6 %, Lymph:9.0 %,
   Mono:2.9 %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.3 g/dL,
   LDH:296 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   55 y/o lady with history HCV on IFN, cryoglobulinemia, dysphagia,
   progressive neuromuscular weakness now s/p trach after intubation for
   aspiration pneumonia and persistant difficulty weaning from vent is
   admitted to MICU after bleeding around trach site.
   .
   # Current Respiratory distress:  Current episode is secondary to
   bleeding aroung the trach site.  Though to be secondary to small vessel
   in that area.  ETT placed for ventilation and went to OR where she was
   found to have small vessel bleed and received stitches. Also had
   electrocautery to cauterize any other superficial bleeders.  Thoracics
   is planning for revision today. She was ET intubated by anesthesia
   during the code.
   - Trach revision on [**2-3**]
   - trend HCT
   - active T&C
   .
   # s/p trach: Secondary to pneumonia and hypoxic respiratory distress as
   above.  Completed 10 day course of antibiotics.  Received trials of PMV
   on the floor.
   - Continue nebs
   .
   # GPC bacteremia:  Most likely from the nonsterile fem line placed.
   Already discontinued the fem line.
   - vancomycin
   - surveillence cultures
   .
   # Fever/Leukocytosis:? aspiration PNA on CXR left base, but
   radiologically improved.  GPC bacteremia as above.  Also may have ?
   small pneumo mediatstium per radiology on post code CXR but repeat CXR
   are improved.
   - trend leukocytosis
   -vanc as above
   .
   # Decreased HCT:  Most likely from femoral hematoma.  Currently
   hemodynamically stable.
   - trend HCT
   - ? CT abd/pelvis if continues to trend down to look for RPB
   .
   # Left femoral hematoma:  In the setting of attempted fem line.
   - trend HCT
   - T&C blood as above
   .
   # Myopathy/Neuropathy: Myopathy/neuropathy felt possibly [**1-11**] mixed
   cryoglobulinemia associated with HCV and possible myopathy from
   interferon. Muscle biopsy showed nonspecific inflammation. Per recent
   neurology outpatient visit, EMG showed a mild sensorimotor
   polyneuropathy as well as a myopathic process in several proximal
   muscles (IP, biceps, infraspinatus, and prominently in L3 paraspinals).
   Additional nerve biopsy may be helpful, but currently holding off.
   - F/U cryo levels
   - Appreciate neurology input; further management per them
   - MRI brain w/ contrast is ordered per Neurology recs
   .
   # Bulbar weakness: Unclear why bulbar weakness is worsening and the
   rest of weakness is stable on exam. Myasthenia [**Last Name (un) 1209**] is in the
   differential diagnosis.
   - Follow up AChR antibodies (currently pending)
   .
   # Conjunctivitis: S/p corneal abrasion secondary to orbicularis
   weakness and inability to close eye. Ophthalmology following.
   - Continue eye drops/antibiotic ointments Q2H
   - [**Month (only) 8**] need definitive management (i.e. taping eye) after resolution of
   bacterial infection
   .
   # HCV: Currently off interferon, with undetectable viral loads. On
   nadolol.
   .
   # Dysphagia. Seen by neuro and ENT as well as S&S eval in [**10-17**]. Felt
   to have laryngeal reflux. TF via Dobhoff, continue PPI.
   - will need PEG placement by IR
   .
   # Thrombocytopenia: Baseline in last 6 months 50-70's. At OSH,
   platelets were in the 20's; heparin stopped for concern for HIT; HIT
   antibody now negative. Platelets improved to 100's. Thrombocytopenia
   thought secondary to liver disease.
   .
   # NSTEMI: History of NSTEMI (at OSH), though likely demand ischemia. On
   beta blocker at this time.
   .
   # HCP blood exposure:  Needs paperwork signed for check up once she is
   awake.
   .
   # FEN. Holding on IVF for now. Monitor/replete electrolytes. Tube
   feeds.
   .
   # Prophylaxis: Pneumoboots, PPI.
   .
   # Access: Fem cortis placed under nonsterile condition, will attemp to
   place peripheral IVs and then remove the fem line
   .
   # Code: FULL CODE
   .
   # Communication: Patient and husband [**Doctor First Name **]. [**Telephone/Fax (1) 4821**].
   - She does not wish for extended family to know about HCV status
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-2-2**] 07:59 AM
   Arterial Line - [**2145-2-2**] 08:00 AM
   18 Gauge - [**2145-2-2**] 12:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-02-03 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y/o f with HCV, Cirrhosis p/w PNA, s/p trach, course c/b acute
   arterial bleed from trach site. Now s/p stitch placed in arterial
   bleed, awaiting trach revision.
   24 Hour Events:
 ARTERIAL LINE - START [**2145-2-2**] 08:00 AM
 BLOOD CULTURED - At [**2145-2-2**] 09:08 PM
 URINE CULTURE - At [**2145-2-2**] 09:08 PM
 CORDIS/INTRODUCER - STOP [**2145-2-2**] 09:18 PM
 MAGNETIC RESONANCE HEAD IMAGING - At [**2145-2-2**] 10:01 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-2-2**] 11:50 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-2-2**] 10:45 AM
   Midazolam (Versed) - [**2145-2-2**] 10:37 PM
   Fentanyl - [**2145-2-3**] 03:24 AM
   Lansoprazole (Prevacid) - [**2145-2-3**] 07:45 AM
   Other medications: reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-3**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.1
   HR: 101 (91 - 126) bpm
   BP: 121/64(86) {93/50(66) - 166/85(113)} mmHg
   RR: 18 (14 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  9,135 mL
                                                                    782 mL
   PO:
           TF:
   IVF:
                                                                  8,265 mL
                                                                    372 mL
   Blood products:
                                                                    750 mL
                                                                    350 mL
   Total out:
                                                                  2,560 mL
                                                                    630 mL
   Urine:
                                                                  1,560 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,575 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 399 (359 - 399) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 15 cmH2O
   Plateau: 6 cmH2O
   SpO2: 99%
   ABG: 7.41/42/63/25/1
   Ve: 7 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   134 K/uL
   112 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.4 mEq/L
   6 mg/dL
   112 mEq/L
   139 mEq/L
   26.1 %
   23.4 K/uL
        [image002.jpg]
                             [**2145-1-28**]  09:56 PM
                             [**2145-1-29**]  03:23 AM
                             [**2145-2-2**]  08:24 AM
                             [**2145-2-2**]  08:43 AM
                             [**2145-2-2**]  01:24 PM
                             [**2145-2-2**]  01:57 PM
                             [**2145-2-2**]  06:09 PM
                             [**2145-2-3**]  12:17 AM
                             [**2145-2-3**]  12:55 AM
                             [**2145-2-3**]  05:36 AM
   WBC
   6.6
   16.1
   23.4
   Hct
   34.0
   31.5
   29.4
   28.9
   24.3
   24.0
   26.1
   Plt
   140
   149
   134
   Cr
   0.3
   0.3
   0.3
   0.3
   TCO2
   30
   28
   Glucose
   108
   95
   149
   112
   Other labs: PT / PTT / INR:14.5/31.7/1.3, CK / CKMB /
   Troponin-T:128/15/0.14, ALT / AST:19/66, Alk Phos / T Bili:111/2.1,
   Amylase / Lipase:113/124, Differential-Neuts:87.6 %, Lymph:9.0 %,
   Mono:2.9 %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.3 g/dL,
   LDH:296 IU/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   55 y/o F with Hep C cirrhosis with neuromusc and bulbar weakness s/p
   tracheal bleed s/p OR visit for ligation and cauterization of bleeder.
   No e/o TI (tracheo-innominate) fistula per surgical team.  Orotracheal
   intubation. Plan for surgical reexploration today and replacement of
   trach. Developed GPC bacteremia overnight.
   Resp: on rounds in AM ETT intubated. Arterial bleeding of thyroid,
   ligated with hemostasis. Continue vent management. Keep comfortable on
   propofol drip. Plan for trach revision today. SBT to be planned once
   trach revised and pt off sedation. Cont. propofol for now
    Tracheal bleed: Check Hct q6h. Hct goal 26%, no active bleed now
   Bacteremia/leukocytosis: GPC 2/2 bottles, speciation and [**Last Name (un) 46**] pending.
   Suspect from dirty fem line placed during code, pulled yesterday. F/u
   cx. Cont. Vanco q12h.
    ? Pneumomedst on CXR: Appears to have resolved on CXR, may be [**1-11**]
   manipulation of trach, no crepitus on exam.
    L groin hematoma: pressure was applied, pressure dressing in place
    HCV with cirrhosis: Following up with liver.
    Conjunctivitis: Tears, cipro  and erythromycin topical in eyes,
   ophthal following
    Neuropathy/myopathy: f/u with neuro. Follow up MRI brain. LP when off
   the vent. Anticholinergic receptor Ab pending. Will consult IR for
   eventually for PEG given ascites.
    CAD/NSTEMI: No symptoms currently, no wall motion abnormalities on
   TTE.
   FEN: Restart TF after trach. Goal even.
   Access: PIVs
   Vent: HOB 30 degress, mouth care
   Ppx: PPI, pneumoboots
   Code: Full code
   Comm: husband
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2145-2-2**] 07:59 AM
   Arterial Line - [**2145-2-2**] 08:00 AM
   18 Gauge - [**2145-2-2**] 12:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2145-02-04 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient had trach placed, 7-0 fenestrated portex, needs suture
   removal around the trach which needs to be removed in one week, bronch
   during this procedure showed increased mucus from left lower lobe, mini
   BAL was sent
   - ordered for tube feeds
   - Neuro recs, MRI unimpressive, wanted to check antiMUSK Ab for a rare
   type of Myasthenia [**Last Name (un) **]
   - HCT stable
   - fem catheter tip also grwoing GPC
   - patient needs to consent for blood tests once sedation is off given
   employee blood exposure, employee health is following
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-2-3**] 08:30 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2145-2-4**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-4**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 99 (86 - 109) bpm
   BP: 158/85(113) {96/46(65) - 159/85(114)} mmHg
   RR: 20 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,234 mL
                                                                     78 mL
   PO:
             TF:
   IVF:
                                                                  1,824 mL
                                                                     78 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,058 mL
                                                                    660 mL
   Urine:
                                                                  1,008 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,176 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 332 (307 - 360) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 13 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.37/49/135/26/2
   Ve: 5.3 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   137 K/uL
   8.5 g/dL
   85 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   7 mg/dL
   108 mEq/L
   138 mEq/L
   25.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2145-2-2**]  01:57 PM
                             [**2145-2-2**]  06:09 PM
                             [**2145-2-3**]  12:17 AM
                             [**2145-2-3**]  12:55 AM
                             [**2145-2-3**]  05:36 AM
                             [**2145-2-3**]  12:29 PM
                             [**2145-2-3**]  12:41 PM
                             [**2145-2-3**]  05:01 PM
                             [**2145-2-4**]  02:02 AM
                             [**2145-2-4**]  02:26 AM
   WBC
   23.4
   12.7
   Hct
   28.9
   24.3
   24.0
   26.1
   25.7
   26.3
   25.2
   Plt
   134
   137
   Cr
   0.3
   0.3
   TCO2
   28
   27
   29
   Glucose
   112
   85
   Other labs: PT / PTT / INR:14.2/32.0/1.2, CK / CKMB /
   Troponin-T:128/15/0.14, ALT / AST:18/51, Alk Phos / T Bili:109/1.2,
   Amylase / Lipase:113/124, Differential-Neuts:87.6 %, Lymph:9.0 %,
   Mono:2.9 %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.3 g/dL,
   LDH:296 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**2145-2-2**] 8:29 pm CATHETER TIP-IV      Source: R femoral
   cortiz.
   GRAM POSITIVE COCCUS(COCCI).    >15 colonies.
   [**2145-2-2**] 8:29 pm BLOOD CULTURE      Source: Line-R femoral cortiz.
   [**2-2**] Blood cultures 2/4:  GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND
   CLUSTERS.
   Assessment and Plan
   55 y/o lady with history HCV on IFN, cryoglobulinemia, dysphagia,
   progressive neuromuscular weakness now s/p trach after intubation for
   aspiration pneumonia and persistant difficulty weaning from vent is
   admitted to MICU after bleeding around trach site.
   .
   # Current Respiratory distress:  Current episode is secondary to
   bleeding aroung the trach site.  Though to be secondary to small vessel
   in that area.  ETT placed for ventilation and went to OR where she was
   found to have small vessel bleed and received stitches. Also had
   electrocautery to cauterize any other superficial bleeders.  Thoracics
   is planning for revision today. She was ET intubated by anesthesia
   during the code.
   - Trach revision on [**2-3**]
   - trend HCT
   - active T&C
   .
   # s/p trach: Secondary to pneumonia and hypoxic respiratory distress as
   above.  Completed 10 day course of antibiotics.  Received trials of PMV
   on the floor.
   - Continue nebs
   .
   # GPC bacteremia:  Most likely from the nonsterile fem line placed.
   Already discontinued the fem line.
   - vancomycin
   - surveillence cultures
   .
   # Fever/Leukocytosis:? aspiration PNA on CXR left base, but
   radiologically improved.  GPC bacteremia as above.  Also may have ?
   small pneumo mediatstium per radiology on post code CXR but repeat CXR
   are improved.
   - trend leukocytosis
   -vanc as above
   .
   # Decreased HCT:  Most likely from femoral hematoma.  Currently
   hemodynamically stable.
   - trend HCT
   - ? CT abd/pelvis if continues to trend down to look for RPB
   .
   # Left femoral hematoma:  In the setting of attempted fem line.
   - trend HCT
   - T&C blood as above
   .
   # Myopathy/Neuropathy: Myopathy/neuropathy felt possibly [**1-11**] mixed
   cryoglobulinemia associated with HCV and possible myopathy from
   interferon. Muscle biopsy showed nonspecific inflammation. Per recent
   neurology outpatient visit, EMG showed a mild sensorimotor
   polyneuropathy as well as a myopathic process in several proximal
   muscles (IP, biceps, infraspinatus, and prominently in L3 paraspinals).
   Additional nerve biopsy may be helpful, but currently holding off.
   - F/U cryo levels
   - Appreciate neurology input; further management per them
   - MRI brain w/ contrast is ordered per Neurology recs
   .
   # Bulbar weakness: Unclear why bulbar weakness is worsening and the
   rest of weakness is stable on exam. Myasthenia [**Last Name (un) 1209**] is in the
   differential diagnosis.
   - Follow up AChR antibodies (currently pending)
   .
   # Conjunctivitis: S/p corneal abrasion secondary to orbicularis
   weakness and inability to close eye. Ophthalmology following.
   - Continue eye drops/antibiotic ointments Q2H
   - [**Month (only) 8**] need definitive management (i.e. taping eye) after resolution of
   bacterial infection
   .
   # HCV: Currently off interferon, with undetectable viral loads. On
   nadolol.
   # Dysphagia. Seen by neuro and ENT as well as S&S eval in [**10-17**]. Felt
   to have laryngeal reflux. TF via Dobhoff, continue PPI.
   - will need PEG placement by IR
   # Thrombocytopenia: Baseline in last 6 months 50-70's. At OSH,
   platelets were in the 20's; heparin stopped for concern for HIT; HIT
   antibody now negative. Platelets improved to 100's. Thrombocytopenia
   thought secondary to liver disease.
   # NSTEMI: History of NSTEMI (at OSH), though likely demand ischemia. On
   beta blocker at this time.
   # Occupational blood exposure:  Needs paperwork signed for check up
   once she is awake.
   # FEN. Holding on IVF for now. Monitor/replete electrolytes. Tube
   feeds.
   # Prophylaxis: Pneumoboots, PPI.
   # Access: Fem cortis placed under nonsterile condition, will attemp to
   place peripheral IVs and then remove the fem line
   # Code: FULL CODE
   # Communication: Patient and husband [**Doctor First Name **]. [**Telephone/Fax (1) 4821**].
   - She does not wish for extended family to know about HCV status
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-2-2**] 07:59 AM
   Arterial Line - [**2145-2-2**] 08:00 AM
   18 Gauge - [**2145-2-2**] 12:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2145-02-04 10:16:00 Physician Attending Progress Note
Chief Complaint: Resp Failure
   Weakness
   Tracheal Bleed
   Line Infection
   HPI:
   55 y/o F with Hep C cirrhosis with neuromusc and bulbar weakness s/p
   tracheal bleed s/p OR visit for ligation and cauterization of bleeder.
   No e/o TI fistula per surgical team.  Orotracheal intubation. Just had
   revision of trach yesterday. Planning to wean now. Neuro following for
   neuromusc weakness w/u.
   24 Hour Events:
   7.0 Portex placed yesterday, started TF, myasthenia w/u undergone, BCx
   with GPCs after fem line pulled.
 INVASIVE VENTILATION - STOP [**2145-2-4**] 04:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-2-4**] 08:10 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2145-2-4**] 05:30 AM
   Lansoprazole (Prevacid) - [**2145-2-4**] 08:10 AM
   Famotidine (Pepcid) - [**2145-2-4**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-4**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 92 (86 - 109) bpm
   BP: 190/144(163) {96/46(65) - 190/144(163)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,234 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                  1,824 mL
                                                                    300 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,058 mL
                                                                    660 mL
   Urine:
                                                                  1,008 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,176 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 332 (307 - 360) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 13 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.37/49/135/26/2
   Ve: 5.3 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: R pupil 6mm L pupil 4mm both reactive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   137 K/uL
   85 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.7 mEq/L
   7 mg/dL
   108 mEq/L
   138 mEq/L
   25.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2145-2-2**]  01:57 PM
                             [**2145-2-2**]  06:09 PM
                             [**2145-2-3**]  12:17 AM
                             [**2145-2-3**]  12:55 AM
                             [**2145-2-3**]  05:36 AM
                             [**2145-2-3**]  12:29 PM
                             [**2145-2-3**]  12:41 PM
                             [**2145-2-3**]  05:01 PM
                             [**2145-2-4**]  02:02 AM
                             [**2145-2-4**]  02:26 AM
   WBC
   23.4
   12.7
   Hct
   28.9
   24.3
   24.0
   26.1
   25.7
   26.3
   25.2
   Plt
   134
   137
   Cr
   0.3
   0.3
   TCO2
   28
   27
   29
   Glucose
   112
   85
   Other labs: PT / PTT / INR:14.2/32.0/1.2, CK / CKMB /
   Troponin-T:128/15/0.14, ALT / AST:18/51, Alk Phos / T Bili:109/1.2,
   Amylase / Lipase:113/124, Differential-Neuts:87.6 %, Lymph:9.0 %,
   Mono:2.9 %, Eos:0.4 %, Lactic Acid:1.3 mmol/L, Albumin:2.3 g/dL,
   LDH:296 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   55 y/o F with Hep C cirrhosis with neuromusc and bulbar weakness s/p
   tracheal bleed s/p OR visit for ligation and cauterization of bleeder.
   No e/o TI (tracheo-innominate) fistula per surgical team.  Orotracheal
   intubation, now with revised trach. Growing GNR in BAL, being treated
   for CNS bacteremia
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   CNS from BCx and old line which is out. F/u blood cultures negative so
   far
   -14 days of IV vanco for Bacteremia
   New GNRs in BAL [**2145-2-3**]. Will need to be followed up and treated if not
   felt to be colonization. Low grade temp overnight Tm 100, WBC improved
   from 25
 12. This will need to be followed up.
 TRACHEAL RECONSTRUCTION (TRACHEOBRONCHIAL)
   s/p cautery of trach bleed, s/p new trach, no recent bleeding
   -f/u BAL
   -cont. TM today
   -cont. nebs
   -speech c/s for PMV
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   As above
 MYOPATHY, OTHER (NOT OF CRITICAL ILLNESS)
   -bulbar and facial weakness, extremity weakness improved
   -MRI OK no brainstem lesion
   -neuro wanted LP, can have as an outpatient to w/u for myasthenia
   -Ab pending
   FEN: Swallow eval, tube feeds
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-2-2**] 07:59 AM
   Arterial Line - [**2145-2-2**] 08:00 AM
   18 Gauge - [**2145-2-2**] 12:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor. Will likely need rehab / long term care
   facility
   Total time spent: 35 minutes